US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 4-methoxyaniline were reacted to yield N2,N4-bis(4-methoxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.67 (d, 1H, J=4.8 Hz), 7.43 (d, 2H, J=9.3 Hz), 7.67 (d, 2H, J=8.7 Hz), 6.87 (d, 2H, J=9.6 Hz), 6.83 (d, 2H, J=8.7 Hz), 3.83 (s, 3H), 3.81(s, 3H); LCMS: ret. time: 22.53 min.; purity: 100%; MS (m/e): 341 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
product | N2,N4-bis(4-methoxyphenyl)-5-fluoro-2,4-pyrimidinediamine | COC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)OC)F | C18H17FN4O2
